US04788206
As in Example 115, (E,E)-5-(4-methoxyphenyl)-5-(3-pyridinyl)-2,4-pentadienoic acid (2.6 g) and 4-nitrophenol (1.42 g) in 35 mL of dichloromethane was treated with 1,3-dicyclohexylcarbodiimide (1.91 g). The mixture was stirred at room temperature for 18 hours, and after the usual work up, the ester was crystallized from ether to give 3.65 g of (E,E)-5-(4-methoxyphenyl)-5-(3-pyridinyl)-2,4-pentadienoic acid 4-nitrophenyl ester 51°-56° C. Recrystallization of a portion from ether afforded the analytical specimen, mp 54°-56° C.

reactant | (E,E)-5-(4-methoxyphenyl)-5-(3-pyridinyl)-2,4-pentadienoic acid | 2.6 g | COC1=CC=C(C=C1)\C(=C/C=C/C(=O)O)\C=1C=NC=CC1 | C17H15NO3
reactant | 4-nitrophenol | 1.42 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 1.91 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | (E,E)-5-(4-methoxyphenyl)-5-(3-pyridinyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 3.65 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(\C=1C=NC=CC1)/C1=CC=C(C=C1)OC)=O | C23H18N2O5
